// Generated for: spectre
// Generated on: Nov 29 14:41:35 2023
// Design library name: mylib
// Design cell name: inv_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vin=0.9
include "/home/vlsidesign/assistant1/SPDK18MMRF_1833_CDS_v2.0/smic18mmrf_1P6M_200709151808/models/spectre/allModels"

// Library name: mylib
// Cell name: inverter
// View name: schematic
subckt inverter in out
    PM0 (out in vdd! vdd!) p18 w=(1.95u) l=180n as=936f ad=936f ps=4.86u \
        pd=4.86u m=(1)*(1)
    NM1 (out in 0 0) n18 w=(600n) l=180n as=288f ad=288f ps=2.16u pd=2.16u \
        m=(1)*(1)
ends inverter
// End of subcircuit definition.

// Library name: mylib
// Cell name: inv_test
// View name: schematic
I0 (net1 net2) inverter
V0 (vdd! 0) vsource dc=1.8 type=dc
V1 (net1 0) vsource dc=vin mag=1 type=pulse val0=0 val1=1.8 period=10n \
        rise=100p fall=100p width=4.9n
C0 (net2 0) capacitor c=1p
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vin start=0 stop=1.8 step=0.001 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
ac ac start=10 stop=1000M annotate=status 
tran tran stop=20n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
