// Generated for: spectre
// Generated on: Dec 25 11:20:43 2023
// Design library name: mylib
// Design cell name: mos_test
// Design view name: schematic
simulator lang=spectre
global 0
parameters vds=3.3 vgs_1=0.7 vgs_2=2.6
include "/home/vlsidesign/assistant1/SPDK18MMRF_1833_CDS_v2.0/smic18mmrf_1P6M_200709151808/models/spectre/allModels"

// Library name: mylib
// Cell name: mos_test
// View name: schematic
M0 (net5 net06 0 0) n33 w=(15u) l=350n as=7.2p ad=7.2p ps=30.96u pd=30.96u \
        m=(1)*(1)
V4 (net011 0) vsource dc=vgs_2 type=dc
V3 (net06 0) vsource dc=vgs_1 type=dc
V0 (net5 0) vsource dc=vds type=dc
M1 (0 net011 net5 net5) p33 w=(15u) l=300n as=7.2p ad=7.2p ps=30.96u \
        pd=30.96u m=(1)*(1)
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vds start=0 stop=3.3 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M0:d 
save M0:rout 
saveOptions options save=allpub
